US04248868
4.4 ml of pyridine and 44 ml of an 8% strength suspension of phosphorus pentachloride in methylene chloride are added to a solution, which has been cooled to -17°, of 3.10 g (5.42 mmols) of diphenylmethyl 3-methoxycarbonylmethyl-7β-phenoxyacetylamino-3-cephem-4-carboxylate in 110 ml of methylene chloride and the mixture is then stirred for 3 hours in an ice bath. After cooling to -30°, 27 ml of absolute methanol are added and the residue mixture is stirred for 1 hour at -10°, for 1 hour at 0° and for 1 hour at room temperature. The pH is adjusted to 2.5 by adding a 0.5 M solution of potassium dihydrogen phosphate, the mixture is stirred for a further 0.5 hour and, for working up, the organic phase is separated off, the aqueous phase is subsequently extracted with twice 50 ml of methylene chloride and the combined methylene chloride phases are extracted by shaking with a saturated solution of sodium chloride, dried over sodium sulphate and evaporated. Chromatography of the crude product over 100 g of silica gel and elution with toluene and 20-30% of ethyl acetate gives amorphous diphenylmethyl 3-methoxycarbonylmethyl-7β-amino-3-cephem-4-carboxylate, which according to thin layer chromatography is a single compound and which is characterised in the form of the crystalline toluenesulphonate; melting point 157°- 158° (decomposition); Rf 0.45 (on silica gel, with ethyl acetate); UV spectrum (in ethanol): λmax =257 nm; IR spectrum (in Nujol): bands at 2.87, 5.57, 5.72, 5.79 and 6.12μ.

reactant | pyridine | 4.4 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | diphenylmethyl 3-methoxycarbonylmethyl-7β-phenoxyacetylamino-3-cephem-4-carboxylate | 5.42 mmols, 3.10 g | COC(=O)CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C31H28N2O7S
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 27 ml | CO | CH4O
product | diphenylmethyl 3-methoxycarbonylmethyl-7β-amino-3-cephem-4-carboxylate | COC(=O)CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2N)=O | C23H22N2O5S
